US08497271B2
Part C. (R)-1-[4-((S)-2-Methyl-butoxy)-phenyl]-2-(4-methyl-piperazin-1-yl)-ethylamine
To 200 mg (0.49 mmol) of (R)-2-Amino-2-[4-((S)-2-methyl-butoxy)-phenyl]-1-(4-methyl-piperazin-1-yl)-ethanone di-HCl salt in 10 mL of THF was added 5.9 mL LAH (1.0 M solution, 4.9 mmol). The resulting mixture was refluxed overnight. On the next day it was cooled to 0° C. and 0.5 mL of concentrated aq. KOH was slowly added. The ice bath was removed, and allowed it to stir for 1 hr, and then diluted with EtOAc, dried over MgSO4, filter and concentrated to obtain 68 mg (44%) of the product. The product obtained was pure enough to be used for the next step without further purification.

reactant | (R)-2-Amino-2-[4-((S)-2-methyl-butoxy)-phenyl]-1-(4-methyl-piperazin-1-yl)-ethanone di-HCl salt | 0.49 mmol, 200 mg | Cl.Cl.N[C@@H](C(=O)N1CCN(CC1)C)C1=CC=C(C=C1)OC[C@H](CC)C
reactant | LAH | 4.9 mmol, 1.0 M, 5.9 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | KOH | 0.5 mL | [OH-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-1-[4-((S)-2-Methyl-butoxy)-phenyl]-2-(4-methyl-piperazin-1-yl)-ethylamine | 68 mg, 44% | C[C@H](COC1=CC=C(C=C1)[C@H](CN1CCN(CC1)C)N)CC | C18H31N3O
